US08071595B2
A mixture of 4-bromo-2,2-dimethyl-5-(thiazol-4-yl)furan-3(2H)-one (0.1 g, 0.37 mmol), 2-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)quinoline (0.164 g, 0.454 mmol), and Cs2CO3 (0.673 g, 2.06 mmol) in toluene (1 mL) and water (1 mL) was degassed and Pd(dppf)Cl2 (0.067 g, 0.082 mmol) was added under an inert atmosphere, and degassed once more. Then the reaction was refluxed for 2 h and was filtered through a pad of Celite®, the filtrate was diluted with EtOAc (10 mL), washed with water (5 mL), brine (5 mL), dried over Na2SO4, filtered and concentrated in vacuo to obtain the crude product. The crude material was purified via silica gel column chromatography to afford 2,2-dimethyl-4-(4-(quinolin-2-ylmethoxy)phenyl)-5-(thiazol-4-yl)furan-3(2H)-one (30 mg, 18%) as a solid. 1H NMR (500 MHz, d6-DMSO): δ 9.17 (s, 1H), 8.43 (d, J=8.5 Hz, 1H), 8.30 (s, 1H), 8.02-7.98 (m, 2H), 7.80 (t, J=8.2 Hz, 1H), 7.70 (d, J=8.2 Hz, 1H), 7.62 (t, J=8.5 Hz, 1H), 7.24 (d, J=7.5 Hz, 2H), 7.08 (d, J=7.4 Hz, 2H), 5.38 (s, 2H), 1.42 (s, 6H). MS: [M+H]: m/z=429.1. HPLC: 97.9% (RT-2.36 min), Column: Acquity BEH-C-18, 50×2.1 mm, 1.7 um. Mobile Phase: 0.025% TFA in Water (A), ACN (B), Flow rate: 0.5 ml/min (Gradient).

reactant | 4-bromo-2,2-dimethyl-5-(thiazol-4-yl)furan-3(2H)-one | 0.37 mmol, 0.1 g | BrC=1C(C(OC1C=1N=CSC1)(C)C)=O | C9H8BrNO2S
reactant | 2-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)quinoline | 0.454 mmol, 0.164 g | CC1(OB(OC1(C)C)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1)C | C22H24BNO3
reactant | Cs2CO3 | 2.06 mmol, 0.673 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.082 mmol, 0.067 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2,2-dimethyl-4-(4-(quinolin-2-ylmethoxy)phenyl)-5-(thiazol-4-yl)furan-3(2H)-one | 30 mg, 18% | CC1(OC(=C(C1=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C=1N=CSC1)C | C25H20N2O3S
